US04431647
Step D: Preparation of 2-acetylamino-4-(methylthiomethoxy)-1-indanone (X)
To 2-acetylamino-4-hydroxy-1-indanone 10.25 g (0.05 m) in 50 ml of dry HMPA under N2 is added 2.6 g (0.055 m) of a 50% oil dispersion of sodium hydride in portions. After stirring at room temperature for 1/2 hr, 5.3 g (0.055 m) of chloromethyl methyl sulfide is added, and the mixture is stirred overnight. Water is added and the mixture is extracted with ethyl acetate which is back-washed with water. After drying (Na2SO4) and concentration, the desired product is obtained.

reactant | 2-acetylamino-4-hydroxy-1-indanone | 10.25 g | C(C)(=O)NC1C(C2=CC=CC(=C2C1)O)=O | C11H11NO3
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 5.3 g | CSCCl | C2H5ClS
reactant | Water | O | H2O
solvent | HMPA | 50 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-acetylamino-4-(methylthiomethoxy)-1-indanone | C(C)(=O)NC1C(C2=CC=CC(=C2C1)OCSC)=O | C13H15NO3S
